US05302593
b) Preparation of 8-(N-methylpiperazinyl)octylamine
Hydrazine (aqueous solution at 35% by wt.) (0.15 ml; 1.6 mmoles) was added to 8-(N-methylpiperazinyl)octylphthalimide (285 mg; 0.8 mmoles) in methanol (5 ml) and the resulting solution was refluxed. Reaction times and process as per Example 1.

reactant | Hydrazine | 1.6 mmoles, 0.15 ml | NN | H4N2
reactant | 8-(N-methylpiperazinyl)octylphthalimide | 0.8 mmoles, 285 mg | CN1C(CNCC1)CCCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C21H31N3O2
solvent | methanol | 5 ml | CO | CH4O
product | 8-(N-methylpiperazinyl)octylamine | CN1C(CNCC1)CCCCCCCCN | C13H29N3
